US09034899B2
To a −78° C. solution of 4-(3,4-dichlorophenyl)-7-methoxy-2-(2-nitrophenylsulfonyl)-1,2,3,4-tetrahydroisoquinoline (3.39 g, 6.88 mmol) in dichloromethane (70 mL) was added boron tribromide (3.25 mL, 34.4 mmol) drop wise. The mixture was stirred for 5 minutes and then warmed to 0° C. for 1 hour. The mixture was quenched with water slowly and then the aqueous layer was extracted with dichlormethane (2×). The combined organic layers were dried over sodium sulfate, filtered and concentrated to give 4-(3,4-dichlorophenyl)-2-(2-nitrophenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-7-ol (3.25 g, 98%) as a yellow solid: 1H NMR (CDCl3, 500 MHz) δ 7.80 (dd, J=8.0, 1.2 Hz, 1H), 7.67-7.63 (m, 1H), 7.58 (dd, J=7.9, 1.2 Hz, 1H), 7.54-7.50 (m, 1H), 7.16 (d, J=8.3 Hz, 1H), 7.02 (d, J=2 Hz, 1H), 6.86 (dd, J=8.3, 2 Hz, 1H), 6.77 (d, J=8.2 Hz, 1H), 6.68-6.65 (m, 2H), 4.88 (s, 1H), 4.74 (d, J=16.2 Hz, 1H), 4.53 (d, J=16.1 Hz, 1H), 4.16 (dd, J=4.9, 4.9 Hz, 1H), 3.83 (dd, J=13.2, 4.5 Hz, 1H), 3.62 (dd, J=13.1, 5.5 Hz, 1H).

reactant | 4-(3,4-dichlorophenyl)-7-methoxy-2-(2-nitrophenylsulfonyl)-1,2,3,4-tetrahydroisoquinoline | 6.88 mmol, 3.39 g | ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=CC=C12)OC)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C22H18Cl2N2O5S
reactant | boron tribromide | 34.4 mmol, 3.25 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | 4-(3,4-dichlorophenyl)-2-(2-nitrophenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-7-ol | 3.25 g, 98% | ClC=1C=C(C=CC1Cl)C1CN(CC2=CC(=CC=C12)O)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C21H16Cl2N2O5S
